### PR TITLE
feat(Algebra/QuadraticDiscriminant): Adding inequalities on quadratic from inequalities on discriminant

### PR DESCRIPTION
**Pull request by upobir**
This PR continues the work from #24517.

Original PR: https://github.com/leanprover-community/mathlib4/pull/24517

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by upobir** [comment]
## Comments from Original PR #24517

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-05-01 15:29 UTC](https://github.com/leanprover-community/mathlib4/pull/24517#issuecomment-2845070417)):
### PR summary [18bca646f4](https://github.com/leanprover-community/mathlib4/pull/24517/commits/18bca646f426af93e093d947b0bfeb7e7a15daf6)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ neg_of_neg_of_discrim_lt_zero`
`+ nonneg_of_pos_of_discrim_le_zero`
`+ nonpos_of_neg_of_discrim_le_zero`
`+ pos_of_pos_of_discrim_lt_zero`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

**Comment by upobir** [comment]
Hello @chrisflav, you had asked in original pr about the motivation behind this pull request. Since I've migrated the pr to own fork, am answering here. Just after the theorems I have defined there are theorems `discrim_le_zero`, `discrim_le_zero_of_nonpos`, `discrim_lt_zero`, `discrim_lt_zero_of_neg` which infer negativity/nonpositivity of discriminant based on the fact that sign of the quadratic is always same. The theorems I want to add are basically kind of converse, that based on leading coefficient and negativity/nonpositivity of discriminant sign of quadratic can be inferred.

There's no particular project that I am doing this for. But I found that quadratic equation related problems use the theorems heavily in general, so I thought they should be in the mathlib.

File: Mathlib/Algebra/QuadraticDiscriminant.lean [hunk 1]
```diff
@@ -116,6 +116,41 @@ theorem discrim_eq_zero_iff (ha : a ≠ 0) :
...
+  simp only [neg_add, ← neg_mul]
+  exact nonneg_of_pos_of_discrim_le_zero (Left.neg_pos_iff.mpr ha) (by simpa)
+
+theorem pos_of_pos_of_discrim_lt_zero {x : K} (ha : 0 < a) (h : discrim a b c < 0) :
+    0 < a * (x * x) + b * x + c := by
+  refine pos_of_mul_pos_left ?_ (mul_pos zero_lt_four ha).le
+  convert_to 0 < (2 * a * x + b)^2 + - discrim a b c using 1
+  · simp [discrim]
+    ring
+
```
Comment (tb65536) [inline Mathlib/Algebra/QuadraticDiscriminant.lean]: You have an extra newline here.

Comment (upobir) [reply Mathlib/Algebra/QuadraticDiscriminant.lean]: removed

File: Mathlib/Algebra/QuadraticDiscriminant.lean [hunk 2]
```diff
@@ -116,6 +116,40 @@ theorem discrim_eq_zero_iff (ha : a ≠ 0) :
 
 end Field
 
+section LinearOrderedRing
+
+variable {K : Type*} [CommRing K] [LinearOrder K] [IsStrictOrderedRing K] {a b c : K}
+
+theorem nonneg_of_pos_of_discrim_le_zero {x : K} (ha : 0 < a) (h : discrim a b c ≤ 0) :
```
Comment (chrisflav) [inline Mathlib/Algebra/QuadraticDiscriminant.lean:123]:
```suggestion
theorem nonneg_of_pos_of_discrim_nonpos {x : K} (ha : 0 < a) (h : discrim a b c ≤ 0) :
```
and similarly below.

File: Mathlib/Algebra/QuadraticDiscriminant.lean [hunk 3]
```diff
@@ -116,6 +116,40 @@ theorem discrim_eq_zero_iff (ha : a ≠ 0) :
...
+    0 ≤ a * (x * x) + b * x + c := by
```
Comment (chrisflav) [inline Mathlib/Algebra/QuadraticDiscriminant.lean:124]: This should probably be stated in terms of `x ^ 2`, but it is hard to tell without an application. This is why I am doubtful that these lemmas are useful: They say the evaluation of some polynomial is non-negative (resp. non-positive, etc.) in a very specific non-canonical form (why not e.g. formulate this in terms of `c + b * x + a * x ^ 2` instead? Or `x ^ 2 * a + x * b + c`?).

I would imagine these lemmas to be more useful in the form:
```
theorem nonneg_of_pos_of_discrim_nonpos (p : Polynomial K) (h : p.natDegree = 2)
    (ha : 0 < p.leadingCoeff) (hd : p.discrim ≤ 0) (x : K) :
    0 ≤ p.eval x := by
  sorry
```
(Note: `Polynomial.discrim` does not exist yet and it should be the generalization of [discrim](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/QuadraticDiscriminant.html#discrim) and [Cubic.disc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/CubicDiscriminant.html#Cubic.disc))

**Review by chrisflav — COMMENTED** [review]
Thanks for migrating this PR to a fork and sorry for the repeated delays.

As mentioned before (and explained in more detail below), it would be very helpful to have a formal application of these lemmas as a reference, because I am not sure about the precise formal statements of these lemmas.

File: Mathlib/Algebra/QuadraticDiscriminant.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/Algebra/QuadraticDiscriminant.lean:124]: We now have [Polynomial.disc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Polynomial/Resultant/Basic.html#Polynomial.disc), so this has become much more doable now.
